US06693123B2
To a −10° C. solution in pyridine (3 mL) of 4-(3-pyridylmethyloxy)-2-hydroxybenzoic acid methyl ester (0.56 g, 2.16 mmol), prepared as in Example 240B, was added triflic anhydride (0.73 mL, 4.32 mmol). The cold bath was allowed to warm to ambient temperature and the reaction mixture was stirred for 96 hours. The reaction mixture was poured into water, made basic with aqueous 2N sodium hydroxide and extracted with ethyl acetate. The combined organic extracts were washed with water (2×) and brine, dried, filtered and concentrated. Purification by chromatography on silica gel (60% ethyl acetate-hexanes) gave 4-(3-pyridylmethyloxy)-2-trifluoromethanesulfonyloxybenzoic acid methyl ester (519 mg, 61%).

reactant | 4-(3-pyridylmethyloxy)-2-hydroxybenzoic acid methyl ester | 2.16 mmol, 0.56 g | COC(C1=C(C=C(C=C1)OCC=1C=NC=CC1)O)=O | C14H13NO4
reactant | triflic anhydride | 4.32 mmol, 0.73 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 4-(3-pyridylmethyloxy)-2-trifluoromethanesulfonyloxybenzoic acid methyl ester | 519 mg, 61% | COC(C1=C(C=C(C=C1)OCC=1C=NC=CC1)OS(=O)(=O)C(F)(F)F)=O | C15H12F3NO6S
